US05728651
Preparation of 2-[2,4-dichloro-5-(2-propynyloxy)phenyl]-2,4-dihydro-5-(3-oxo-propyl)-3H-1,2,4-triazol-3-one
To a solution of 500 mg (1.48 mmol) of 2-[2,4-dichloro-5-(2-propynyloxy)phenyl]-2,4-dihydro-5-(3-butenyl)-3H-1,2,4-triazol-3-one in a mixture of 10 mL of tetrahydrofuran and 10 mL of water was added 696 mg (3.25 mmol) of sodium periodate and 167 mL of 0.18M aqueous solution of osmium tetroxide at room temperature. The mixture was stirred at the room temperature for 2h, and then diluted with water and extracted with ethyl acetate. The organic layer was dried (MgSO4) and concentrated in vacuo. The crude product was purified by flash chromatography over silica gel, eluting with a 96:4 v:v mixture of dichloromethane and methanol to give 464 mg of the title product of Step 1 as a white foam. 1H NMR (CDCI3, 400 MHz) δ 11.5 (broad s,1H), 9.8 (s,1H), 7.55 (s,1H), 7.2 (s,1H), 4.8 (s,2H), 2.9 (m,4H).

reactant | 2-[2,4-dichloro-5-(2-propynyloxy)phenyl]-2,4-dihydro-5-(3-butenyl)-3H-1,2,4-triazol-3-one | 1.48 mmol, 500 mg | ClC1=C(C=C(C(=C1)Cl)OCC#C)N1N=C(NC1=O)CCC=C | C15H13Cl2N3O2
reactant | sodium periodate | 3.25 mmol, 696 mg | I(=O)(=O)(=O)[O-].[Na+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | water | 10 mL | O | H2O
catalyst | osmium tetroxide | [Os](=O)(=O)(=O)=O
product | 2-[2,4-dichloro-5-(2-propynyloxy)phenyl]-2,4-dihydro-5-(3-oxo-propyl)-3H-1,2,4-triazol-3-one | 464 mg | ClC1=C(C=C(C(=C1)Cl)OCC#C)N1N=C(NC1=O)CCC=O | C14H11Cl2N3O3
